US07241887B2
3-Benzyl-8-(3-bromo-phenyl)-8-methoxy-3-aza-bicyclo[3.2.1]octane
1,3-Dibromobenzene (12.4 ml, 0.102 mol) in anhydrous ether (200 ml) in a flame dried 1LRB flask, at −78° C. was treated with a 2.5M solution of n-butyllithium in hexanes (41.0 ml, 0.102 mol) via an addition funnel over 15 min. After 1 h at −78° C., the mixture was treated with a suspension of 3-benzyl-3-aza-bicyclo[3.2.1]octan-8-one (11.02 g, 51.2 mmol) in anhydrous ether (100 ml) via addition funnel over 20 min. The reaction stirred at −78° C. 45 min, warmed to room temperature and judged complete by TLC. The reaction solution was carefully concentrated in vacuo under N2 to remove ˜250 mL of ether. The reaction slurry was charged with 250 ml of fresh anhydrous THF, followed by iodomethane (9.56 ml, 0.154 mol) and allowed to stir at room temperature for 60 h. After quenching with 1 N HCl (100 ml to pH 1), the layers were separated, then extracted with ether (2×100 ml). The acidic aqueous layer was basified with saturated aqueous Na2CO3 solution to pH 11, and extracted with EtOAc (2×100 ml). All organic extracts were combined, washed with saturated aqueous Na2CO3 solution (1×100 ml), saturated aqueous NaCl solution (1×100 ml), dried over Na2SO4, filtered and concentrated to a dark oil. Passage through a Silica pad (3×8 in) eluted with 5% EtOAc/hexanes yielded a light yellow oil (22.4 g, >100%). (TLC 20% EtOAc/Hexanes Rf 0.70); 1H NMR (400 MHz, CDCl3) δ 7.55 (s, 1H), 7.41–7.19 (m, 8H), 3.60 (s, 2H), 2.84 (s, 3H), 2.75 (d, J=9.9 Hz, 2H), 2.53 (d, J=7.9 Hz, 2H), 2.43 (br s, 2H), 1.80 (d, J=7.5 Hz, 2H), 1.38 (m, 2H); APCI MS m/z 386.1, 388.1 (M+1)+.

reactant | 1,3-Dibromobenzene | 0.102 mol, 12.4 ml | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-benzyl-3-aza-bicyclo[3.2.1]octan-8-one | 51.2 mmol, 11.02 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=O | C14H17NO
reactant | iodomethane | 0.154 mol, 9.56 ml | IC | CH3I
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-Benzyl-8-(3-bromo-phenyl)-8-methoxy-3-aza-bicyclo[3.2.1]octane | 22.4 g, >100% | C(C1=CC=CC=C1)N1CC2CCC(C1)C2(OC)C2=CC(=CC=C2)Br | C21H24BrNO
